### PR TITLE
Prove a_is_invert_transform_case in OEIS A108306

### LINKED ISSUE #6058: OEIS A108306: prove the textbook statement a_is_invert_transform_case
`FormalConjectures/OEIS/108306.lean` has the `textbook` statement `a_is_invert_transform_case : a n = (m ^ (n + 1)) 0 0` as `by sorry`, where `a` is the recurrence `a (k + 2) = 3 a (k + 1) + 3 a k` and `m = [(1,5); (1,2)]`.

Plan: `m ^ 2 = 3 • m + 3 • 1` (its characteristic equation) is a finite check, so `m ^ (n + 2) = 3 • m ^ (n + 1) + 3 • m ^ n`; the `(0,0)` entries then satisfy the same recurrence as `a`, and a two-step induction finishes. A pull request follows.

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6058

## What changed

`FormalConjectures/OEIS/108306.lean`: two `API` lemmas and the proof of the `textbook` statement.

- `m_sq : m ^ 2 = 3 • m + 3 • 1` (`decide`).
- `m_pow_add_two : m ^ (n + 2) = 3 • m ^ (n + 1) + 3 • m ^ n`.
- `a_is_invert_transform_case`: two-step induction (`Nat.twoStepInduction`); the base cases are `decide`, the step is the recurrence read off the `(0,0)` entry.

## Why

The characteristic polynomial of `m` is `x² - 3x - 3`, the same recurrence as `a`, and the initial values match (`m 0 0 = 1 = a 0`, `(m ^ 2) 0 0 = 6 = a 1`).

## How checked

- `lake --wfail build 'FormalConjectures.OEIS.«108306»'` succeeds.
- `#print axioms OeisA108306.a_is_invert_transform_case`: `[propext, Classical.choice, Quot.sound]`.

## Reviewer notes

- The general `conjecture` (with the INVERT transform) has a `formal_proof` link and is not touched.

### CODE REVIEW

File: FormalConjectures/OEIS/108306.lean [hunk 1]
```diff
@@ -64,6 +64,16 @@ def m : Matrix (Fin 2) (Fin 2) ℕ :=
...
+/-- `m` satisfies its characteristic equation `m ^ 2 = 3 m + 3`. -/
+@[category API, AMS 11]
+theorem m_sq : m ^ 2 = 3 • m + 3 • (1 : Matrix (Fin 2) (Fin 2) ℕ) := by
+  decide
+
+/-- Powers of `m` satisfy the recurrence of `a`. -/
+@[category API, AMS 11]
+theorem m_pow_add_two (n : ℕ) : m ^ (n + 2) = 3 • m ^ (n + 1) + 3 • m ^ n := by
+  rw [pow_add, m_sq, mul_add, mul_smul_comm, mul_smul_comm, mul_one, ← pow_succ]
+
```
Comment (mo271) [inline FormalConjectures/OEIS/108306.lean]: please inline

**Comment by Konamiu** [comment]
Inlined: the two helper lemmas are now `have`s inside `a_is_invert_transform_case`; no other declarations added.

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
